US06005000
To an oven dried 250 mL round bottom flask flushed with argon was added 5.8 g (22 mmol) of PPh3, 1.5 g (22 mmol) of imidazole and 80 mL of ether/CH3CN (3/1). The mixture was cooled in an ice water bath with magnetic stirring and 5.6 g (22 mmol) of iodine was added in 4 equal portions with vigorous stirring. The resulting slurry was warmed at room temperature for 20 minutes, cooled to 0° C., and 5.0 g (20 mmol) of 3-benzyloxy-4-hydroxy-5-(2-hydroxyethyl)-2(5H)-furanone dissolved in 20 mL of CH3CN/ether (1/1) was added in one portion and the remainder was rinsed in with 5 mL of ether. The mixture was stirred at 0° C. for 10 minutes, then at room temperature for 30 minutes and quenched by pouring into 150 mL of 10% HCl solution and extracting with 500 mL of ether/hexanes (1/1). The aqueous layer was separated and extracted with 100 mL of ether. The combined organic fractions were washed with 50 mL of H2O and extracted with 5×50 mL of saturated NaHCO3 solution. The combined bicarbonate extracts were washed with 50 mL of ether/hexanes (1/1), acidified to pH below 2 with 10% HCl solution and extracted with 3×200 mL of ether. The combined ether extracts were washed with 100 mL of brine, dried (MgSO4) and concentrated to give 6.7 g, (93% yield) of 3-benzyloxy-4-hydroxy-5-(2-iodoethyl)-2(5H)-furanone as a white solid, which was not further purified: mp 101-104° C., 1H NMR (CDCl3) δ 7.40-7.27 (m, 5H), 5.06, (dd, J=11.4 Hz, 2H), 4.69 (dd, J=3.4, 8.0 Hz, 1H), 3.06 (t, J=7.3 Hz, 2H), 2.41-2.29 (m, 1H), 2.02-1.90 (m, 1H); 13C NMR (CDCl3) δ 170.33, 160.61, 136.32, 128.77, 128.69, 128.58, 120.11, 75.76, 73.39, 35.77, -2.03; Anal Calcd for C13H13O4I: C, 43.35; H, 3.64. Found: C, 43.94; H, 3.69.

reactant | PPh3 | 22 mmol, 5.8 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | imidazole | 22 mmol, 1.5 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 22 mmol, 5.6 g | II | I2
reactant | 3-benzyloxy-4-hydroxy-5-(2-hydroxyethyl)-2(5H)-furanone | 20 mmol, 5.0 g | C(C1=CC=CC=C1)OC=1C(OC(C1O)CCO)=O | C13H14O5
solvent | CH3CN ether | 20 mL | CC#N.CCOCC
solvent | ether CH3CN | 80 mL | CCOCC.CC#N
product | 3-benzyloxy-4-hydroxy-5-(2-iodoethyl)-2(5H)-furanone | 93% yield | C(C1=CC=CC=C1)OC=1C(OC(C1O)CCI)=O | C13H13IO4
